US05834493
ii) 5-Methoxy-3-(N-benzyl-1,2,5,6-tetrahydro-pyridin-3-ylmethyl)-1H-indole
Sodium borohydride in pellets (1.5 g; 0.0396 mol) was added to a cold (0° C.) stirring mixture of 3[(5-methoxy-1H-indol-3-yl)methyl]-1-benzyl-pyridinium bromide (5.8 g; 0,0141 mol) in methanol (130 ml). The reaction mixture was stirred at 0° C. for 2 hours. The product precipitated as a whitepink solid was filtered and washed with cold methanol and dried under vacuum.

reactant | Sodium borohydride | [BH4-].[Na+]
reactant | 3[(5-methoxy-1H-indol-3-yl)methyl]-1-benzyl-pyridinium bromide | 0,0141 mol, 5.8 g | [Br-].COC=1C=C2C(=CNC2=CC1)CC=1C=[N+](C=CC1)CC1=CC=CC=C1
solvent | methanol | 130 ml | CO | CH4O
product | 5-Methoxy-3-(N-benzyl-1,2,5,6-tetrahydro-pyridin-3-ylmethyl)-1H-indole | COC=1C=C2C(=CNC2=CC1)CC=1CN(CCC1)CC1=CC=CC=C1 | C22H24N2O
